US04005107
The inventors have established a more effective method for producing β-(2-oxocyclododecyl)propionic acid by the following steps: reacting cyclododecanone with diethyl carbonate to give carbethoxycyclododecanone, reacting the carboethoxycyclododecanone with β-propiolactone in a solvent having no alkoxy group, such as benzene, toluene and ethyl ether in the presence of sodium hydride, hydrolyzing the resulting product, and then decarboxylating to give β-(2-oxocyclododecyl)propionic acid in high yield (79% based on the starting cyclododecanone theoretically).

reactant | cyclododecanone | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | diethyl carbonate | C(OCC)(OCC)=O | C5H10O3
product | carbethoxycyclododecanone | C(=O)(OCC)C1C(CCCCCCCCCC1)=O | C15H26O3
